US07332552B2
To a 100 ml round bottom flask was added 20 ml p-anisylmagnesium bromide (0.49M solution in ethyl ether). 0.76 g carbon disulfide was added dropwise to this mixture and stirred for ½ h at room temperature. Then to the dark red solution was added 2 g α-bromobenzeneacetonitrile dropwise and the mixture stirred for another 2 h. Water was added to the mixture and the organic product was extracted with diethyl ether (3×50 ml), dried with magnesium sulfate overnight and filtered. After removal of solvent and column chromatography (5:1 mixture of hexane and ethyl ether), pure α-cyanobenzyl 4-methoxydithiobenzoate was obtained as an orange odorless solid (73% yield). Proton and carbon NMR spectra were consistent with the expected structure, CTA-CP-3.

reactant | p-anisylmagnesium bromide | 0.49M, 20 ml | C(C1=CC=C(C=C1)OC)[Mg]Br
reactant | carbon disulfide | 0.76 g | C(=S)=S | CS2
reactant | α-bromobenzeneacetonitrile | 2 g | BrC(C#N)C1=CC=CC=C1 | C8H6BrN
solvent | Water | O | H2O
product | α-cyanobenzyl 4-methoxydithiobenzoate | COC1=CC=C(C(=S)SC(C2=CC=CC=C2)C#N)C=C1 | C16H13NOS2
